US09233985B2
While under nitrogen, a stirred suspension of 4-chlorophenylalanine (2.50 g, 12.5 mmol) in anhydrous methanol (18 mL) was cooled in an ice-water bath and carefully treated with thionyl chloride (1.00 mL, 13.8 mmol). After stirring for 10 min, and the cooling bath was removed and the mixture was allowed to warm to room temperature. A reflux condenser was attached, and the slurry was warmed to 55° C. After stirring overnight, the mixture was cooled to room temperature, concentrated and dried under reduced pressure to give methyl 2-amino-3-(4-chlorophenyl)propanoate hydrochloride (3.13 g, 99%) as a white solid. ESI+ MS found for C10H12ClNO2 m/z 214.0 (M+H).

reactant | 4-chlorophenylalanine | 12.5 mmol, 2.50 g | ClC1=CC=C(C[C@H](N)C(=O)O)C=C1 | C9H10ClNO2
reactant | thionyl chloride | 13.8 mmol, 1.00 mL | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 18 mL | CO | CH4O
product | methyl 2-amino-3-(4-chlorophenyl)propanoate hydrochloride | 3.13 g, 99% | Cl.NC(C(=O)OC)CC1=CC=C(C=C1)Cl | InChI=1S/C10H12ClNO2.ClH/c1-14-10(13)9(12)6-7-2-4-8(11)5-3-7;/h2-5,9H,6,12H2,1H3;1H
